US09226922B2
To a solution of (S)-2-((tert-butoxycarbonyl)amino)-2-phenylacetic acid (1.0 g, 4.0 mmol) in dichloromethane (10 mL) were added N,O-dimethyl hydroxylamine hydrochloride (0.77 g, 8.0 mmol), EDCl (1.2 g, 6.0 mmol), HOBt (0.05 g, 0.4 mmol), Et3N (0.8 g, 8.0 mmol) and the contents were stirred at ambient temperature. After 2 hr, the reaction was quenched with ice cold H2O (10 mL), and the organic contents were extracted with CH2Cl2 (2×30 mL). The combined organic extracts were washed with brine (1×20 mL), dried over Na2SO4, concentrated and the residue thus obtained was purified by flash column chromatography to afford (S)-tert-butyl(2-(methoxy(methyl)amino)-2-oxo-1-phenylethyl)carbamate. 1H NMR (300 MHz, CDCl3) δ 7.39-7.29 (m, 5H), 5.77 (bs, 1H), 5.73 (bs, 1H), 3.47 (s, 3H), 3.20 (s, 3H), 1.42 (s, 9H).

reactant | (S)-2-((tert-butoxycarbonyl)amino)-2-phenylacetic acid | 4.0 mmol, 1.0 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C1=CC=CC=C1 | C13H17NO4
reactant | N,O-dimethyl hydroxylamine hydrochloride | 8.0 mmol, 0.77 g | Cl.CNOC
reactant | EDCl | 6.0 mmol, 1.2 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 0.4 mmol, 0.05 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Et3N | 8.0 mmol, 0.8 g | CCN(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-tert-butyl(2-(methoxy(methyl)amino)-2-oxo-1-phenylethyl)carbamate | C(C)(C)(C)OC(N[C@H](C(=O)N(C)OC)C1=CC=CC=C1)=O | C15H22N2O4
